US06468995B1
Under nitrogen atmosphere, to a suspension of diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (30.2 g) in THF (800 ml) was added herein 1,3-bis(trimethylsilyl)urea (25.8 g) was added at the room temperature. The reaction mixture was warmed at 35° C. and dissolved, and then it was cooled below 0° C. A suspension of 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetylchloride monohydrochiloride salt (17.93 g) in acetonitrile (200 ml) was dropped into the above reaction mixture below 0° C. After stirring at the same temperature for 10 minutes, it was poured into a mixture of ethyl acetate (1.2 l) and ice-water (1.5 l). The aqueous layer was adjusted at pH 6.5 with saturated sodium bicarbonate solution. The organic layer was separated, washed with brine (1.0 l), and dried over magnesium sulfate, and then evaporated until the volume amounted to 500 ml. The solution was poured into IPE (1.5 l). The resulting precipitate was filtered, dried under reduced pressure to give diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (41.3 g) as powder.

reactant | diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 30.2 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H22N4O3S2
reactant | 1,3-bis(trimethylsilyl)urea | 25.8 g | C[Si](NC(=O)N[Si](C)(C)C)(C)C | C7H20N2OSi2
reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetylchloride | NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC(C)=O | C7H6ClN3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 1.2 l | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 41.3 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)=O | C31H27N7O6S3
